US08664288B2
1,3-Bis(2,6-diisopropylphenyl)-O—(N-cyclohexylideneamino)-isourea (Cmpd. 4)
To a solution of cyclohexanone oxime (1.13 g, 0.01 mol) in dry THF (25 ml) is added finely powdered NaOH (0.04 g) and bis(2,6-diisopropylphenyl)carbodiimide (3.65 g, 0.01 mol). The mixture is then stirred 4 h at room temperature under argon. The turbid mixture is thereafter filtered and evaporated under reduced pressure. The solid residue is crystallized from dichloro-methane-hexane to afford 3.9 g of the title compound as a colorless solid, mp. 150-152° C.

reactant | cyclohexanone oxime | 0.01 mol, 1.13 g | C1(CCCCC1)=NO | C6H11NO
reactant | NaOH | 0.04 g | [OH-].[Na+]
reactant | bis(2,6-diisopropylphenyl)carbodiimide | 0.01 mol, 3.65 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=NC1=C(C=CC=C1C(C)C)C(C)C | C25H34N2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1,3-Bis(2,6-diisopropylphenyl)-O—(N-cyclohexylideneamino)-isourea | 3.9 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(ON=C1CCCCC1)=NC1=C(C=CC=C1C(C)C)C(C)C | C31H45N3O
